US04229449
To a solution of 2-hydroxy-3-(2-methoxy-phenoxy)-3-phenyl-propylamine (10 g) in anhydrous dimethylformamide (150 ml), 55% NaH (1.75 g) was added at room temperature. After stirring for 1 hours, a solution of 2-chloro-1-iodo-ethane (7 g) in dimethylformamide (50 ml) was added all at one time. The temperature was maintained at 50° C. for 1 hour then Na2CO3 (5.82 g) was added and the whole was maintained at 50° C. for a further 3 hours. The whole was poured into water and extraction made with ethyl acetate. After a standard working up, procedure, 2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine (6.24 g; 57%) was obtained as a transparent oil .HCl m.p. 140°-170° C.

reactant | 2-hydroxy-3-(2-methoxy-phenoxy)-3-phenyl-propylamine | 10 g | OC(CN)C(C1=CC=CC=C1)OC1=C(C=CC=C1)OC | C16H19NO3
reactant | NaH | 1.75 g | [H-].[Na+]
reactant | 2-chloro-1-iodo-ethane | 7 g | ClCCI | C2H4ClI
reactant | Na2CO3 | 5.82 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine | 6.24 g, 57% | COC1=C(OC(C2=CC=CC=C2)C2CNCCO2)C=CC=C1 | C18H21NO3
